US06509328B1
3-(4-Oxo-7-m-tolyl-4,5-dihydro-3H-benzo [b][1,4]diazepin-2-yl)-benzonitrile
Prepared from {3-[3-(3-cyano-phenyl)-3-oxo-propionylamino]-3′-methyl-biphenyl-4-yl}-carbamic acid tert.-butyl ester (Example K15) by treatment with TFA in CH2Cl2 according to the general procedure M. Obtained as a light yellow powder (145 mg).

reactant | {3-[3-(3-cyano-phenyl)-3-oxo-propionylamino]-3′-methyl-biphenyl-4-yl}-carbamic acid tert.-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C1=CC(=CC=C1)C)NC(CC(=O)C1=CC(=CC=C1)C#N)=O)=O | C28H27N3O4
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 3-(4-Oxo-7-m-tolyl-4,5-dihydro-3H-benzo [b][1,4]diazepin-2-yl)-benzonitrile | 145 mg | O=C1NC2=C(N=C(C1)C=1C=C(C#N)C=CC1)C=CC(=C2)C=2C=C(C=CC2)C | C23H17N3O
